US03978092
20 Parts of 1,1-di-(3-methyl-2-butenyloxy)-3-methyl-2-butene which was synthesized in Example 1, 43 parts of xylene, and 0.1 part of ammonium nitrate were charged in a flask, and the xylene was distilled off under reduced pressure (20 mmHg). Thereafter the bath temperature was maintained at not higher than 100°C., and the distillate was collected until the reaction was completed. Re-distilling the so obtained distillate, 5.15 parts of a fraction of a distillate boiling at 46.5°C./0.1 mmHg was obtained, which was confirmed to be 1-(3-methyl-2-butenyloxy)-3-methyl-1,3-butadiene from the results of IR, NMR, and high resolving power mass spectrum analyses. The analyses data are shown in Table 9.

reactant | ammonium nitrate | [N+](=O)([O-])[O-].[NH4+]
reactant | 1-(3-methyl-2-butenyloxy)-3-methyl-1,3-butadiene | CC(=CCOC=CC(=C)C)C | C10H16O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1,1-di-(3-methyl-2-butenyloxy)-3-methyl-2-butene | CC(=CCOC(C=C(C)C)OCC=C(C)C)C | C15H26O2
